US04367238
A solution of 2-[2-methoxy-3-(3-chlorophenoxy)phenyl]acetic acid (10 g) in acetic anhydride (30 ml) and 48% hydriodic acid (60 ml) were treated in a similar manner to that of Example 6-(6) to give 2-[2-hydroxy-3-(3-chlorophenoxy)phenyl]acetic acid (4.6 g). mp 99°-102° C.

reactant | 2-[2-methoxy-3-(3-chlorophenoxy)phenyl]acetic acid | 10 g | COC1=C(C=CC=C1OC1=CC(=CC=C1)Cl)CC(=O)O | C15H13ClO4
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 60 ml | I | HI
product | 2-[2-hydroxy-3-(3-chlorophenoxy)phenyl]acetic acid | 4.6 g | OC1=C(C=CC=C1OC1=CC(=CC=C1)Cl)CC(=O)O | C14H11ClO4
